US07589205B2
G1. 1-Bromo-1-(3-ethoxy-4-methoxyphenyl)ethene
According to the General Procedure D, HBr (33% in acetic acid, 1.22 ml, 0.51 g, 6.25 mmol) and 3-Ethoxy-4-methoxyphenylacetylene (1.10 g, 6.25 mmol) are converted to give after workup and chromatography (SiO2 PE/EE 5:1, Rf=0.35) the title compound (1.53 g, 5.83 mmol) as a brown oil; C11H13BrO2 (257.13).

reactant | HBr | 6.25 mmol, 1.22 ml, 0.51 g | Br | BrH
reactant | 3-Ethoxy-4-methoxyphenylacetylene | 6.25 mmol, 1.10 g | C(C)OC=1C=C(C=CC1OC)C#C | C11H12O2
product | 1-Bromo-1-(3-ethoxy-4-methoxyphenyl)ethene | 5.83 mmol, 1.53 g | BrC(=C)C1=CC(=C(C=C1)OC)OCC | C11H13BrO2
